datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1(OC)C(C)C([H])=C([H])C(C)[O:10]1>>[O-:10]C(C)/C([H])=C([H])\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CC>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC)CC.[O-:21]CC>>CCCCCCN([C:20]([O-:10])(OC)[O:21]CC)CC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)=C([H])C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])/C([H])=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"[OH:10]C(C=CC=C1)=C1C(C)C([C:20](C)=[OH+:21])O>>[OH:21][C:20]2(C)C(C(C)C3=C([OH+:10]2)C=CC=C3)O 10=20;20,21=21"
"[O:10]([K])C(C)C([H])C([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O+:10]([K])C(C)C([H])C1C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](C)[S]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C(C)C([H])=C(C)C(C)[OH+:10]1>>[OH:10]C(C)/C(C)=C([H])\C(C)[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(CC)C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(CC)[O]1 10=20;20,21=21"
"[Li][O:21]C.[C:20](=[O:10])(OC1=CC=CC=C1)OC1=CC=CC=C1>>[Li][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OC1=CC=CC=C1)C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C)C([H])[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O]C(C)C([H])[S]1 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)[S][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[OH:10]C(C=CC=C1)=C1C(C)C([C:20]([H])=[OH+:21])[H]>>[OH:21][C:20]2([H])C(C(C)C3=C([OH+:10]2)C=CC=C3)[H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"C[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[S]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C)[H]>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[Cl-:21] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"[NH:10]([H])C(C)C([H])C([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[NH+:10]([H])C(C)C([H])C1C 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CCCCCC.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CCCCCC)CCCCCC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](CC)[S]1 10=20;20,21=21"
